US08541448B2
Intermediate 1.1: 2-bromo-1-(3-bromophenyl)ethanone
Into a 500-mL 3-necked round-bottom flask, was placed a solution of 1-(3-bromophenyl)ethanone (40 g, 202.02 mmol, 1.00 equiv) in acetic acid (200 mL). This was followed by the addition of a solution of Br2 (32 g, 200.00 mmol) in acetic acid (50 mL) dropwise with stirring at 60° C. The resulting solution was stirred for 3 h at 60° C. in an oil bath. The resulting mixture was concentrated under vacuum. The crude product was re-crystallized from petroleum ether:ethyl acetate in the ratio of 8:1. This resulted in 24 g (43%) of 2-bromo-1-(3-bromophenyl)ethanone as a yellow solid.

reactant | 1-(3-bromophenyl)ethanone | 202.02 mmol, 40 g, 1.00 equiv | BrC=1C=C(C=CC1)C(C)=O | C8H7BrO
reactant | Br2 | 200.00 mmol, 32 g | BrBr | Br2
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 2-bromo-1-(3-bromophenyl)ethanone | BrCC(=O)C1=CC(=CC=C1)Br | C8H6Br2O
